US07414050B2
To a suspension of [4-(2-hydroxy-1-hydroxymethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester (267 mg, 1.00 mmol, as prepared in the previous step) in DCM (10 mL) and Et3N (0.35 mL, 2.5 mmol), methanesulfonyl chloride (MsCl) (0.15 mL, 2.0 mmol) was added dropwise at 0° C. The resulting mixture was stirred at RT for 30 min, diluted with DCM (100 mL) and washed with satd NaHCO3 (20 mL). The organic layer was separated, dried (Na2SO4) and concentrated to afford methanesulfonic acid 2-(4-tert-butoxycarbonylamino-phenyl)-3-methanesulfonyloxy-propyl ester, which was dried in vacuo and directly used in next step: Mass spectrum, (ESI, m/z): Calcd. for C16H25NO8S2, 446.1 (M+Na). found 446.0.

reactant | [4-(2-hydroxy-1-hydroxymethyl-ethyl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)C(CO)CO)=O | C14H21NO4
reactant | Et3N | 2.5 mmol, 0.35 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.0 mmol, 0.15 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-(4-tert-butoxycarbonylamino-phenyl)-3-methanesulfonyloxy-propyl ester | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C(COS(=O)(=O)C)COS(=O)(=O)C | C16H25NO8S2
